US04937268
[4-[2-(3-Bromopropoxy)ethoxy]butyl]benzene
Triphenylphosphine (6.55 g) in dichloromethane (30 ml) was added dropwise to 3-[2-(4-phenylbutoxy)ethoxy]-1-propanol (5.0 g) and carbon tetrabromide (8.3 g) in dichloromethane (30 ml) at 0°. The mixture was stirred at room temperature for 1 h, evaporated onto silica, and purified by FCC eluting with cyclohexane - followed by System B (1:9) to give the title compound (5.4 g) as an oil. T.l.c. (System B 1:9) Rf 0.35

reactant | Triphenylphosphine | 6.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-[2-(4-phenylbutoxy)ethoxy]-1-propanol | 5.0 g | C1(=CC=CC=C1)CCCCOCCOCCCO | C15H24O3
reactant | carbon tetrabromide | 8.3 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | [4-[2-(3-Bromopropoxy)ethoxy]butyl]benzene | 5.4 g | BrCCCOCCOCCCCC1=CC=CC=C1 | C15H23BrO2
